US09085555B2
B. (1R,3S,5R)-3-[(S)-1-(3-Chloro-2-fluoro-phenyl)-2-methoxy-ethylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester
To a suspension of NaH (60% in mineral oil, 25.7 mg, 0.64 mmol) in THF (3 mL) cooled at 0° C. under Argon was added (1R,3S,5R)-3-[(S)-1-(3-chloro-2-fluoro-phenyl)-2-hydroxy-ethylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester (270 mg, 0.64 mmol). The reaction mixture was stirred at 0° C. for 30 min and iodomethane (0.06 mL, 0.97 mmol) was added. After 1 h the reaction mixture was poured into saturated NaHCO3 aqueous solution. CH2Cl2 was added, the layers were separated and the aqueous one back-extracted with CH2Cl2 (×3). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude material was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 20:80) the desired compound as a colorless oil. TLC, Rf (EtOAc)=0.65; MS (UPLC/MS): 413.4/415.4 [M+H]+, 457.4/459.4 [M+HCOO]−; tR (HPLC conditions a): 3.67 min.

reactant | NaH | 0.64 mmol, 25.7 mg | [H-].[Na+]
reactant | (1R,3S,5R)-3-[(S)-1-(3-chloro-2-fluoro-phenyl)-2-hydroxy-ethylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | 0.64 mmol, 270 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(N[C@H](CO)C1=C(C(=CC=C1)Cl)F)=O | C19H24ClFN2O4
reactant | iodomethane | 0.97 mmol, 0.06 mL | IC | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1R,3S,5R)-3-[(S)-1-(3-Chloro-2-fluoro-phenyl)-2-methoxy-ethylcarbamoyl]-2-aza-bicyclo[3.1.0]hexane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(N[C@H](COC)C1=C(C(=CC=C1)Cl)F)=O | C20H26ClFN2O4
